US06166207
Using a method similar to Example 1, 25.4 mol of butyrolactone were reacted with 35 mol of 1,3-DAP (molar ratio=1.38). After a reaction time of 32 hours, the temperature of the liquid in the flask was 220° C. and 73% of the theoretically possible amount of water had been distilled off. Distillation gave 12 mol of DBN having a purity of more than 99.1%. The total yield of DBN, including the amount still present in the distillation residues, was 83.3%.

reactant | butyrolactone | 25.4 mol | C1(CCCO1)=O | C4H6O2
reactant | 1,3-DAP | 35 mol | C(C[NH3+])C[NH3+]
product | DBN | 12 mol | C1CC2=NCCCN2C1 | C7H12N2
